Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
FALL
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ with no significant PMH p/w syncope. The morning of 
admission, the patient awoke and started walking to the kitchen. 
At which time she felt fullness in her lower extremities, 
unsteadiness, nausea and diaphoresis. She then had a fall, 
witnessed by her son. There was no head trauma and no LOC. She 
had no confusion after the fall and denies paresthesia or 
weakness. She also denies palpitations. She then went to the 
bathroom and had 1 episode of non-bloody diarrhea. 

The patient denies any previous vomiting/diarrhea. The patient 
does endorse some decreased PO intake over the last few weeks 
___ loss of appetite. She also notes occasional palpitations, 
however none surrounding this episode.

She denies chest pain, sob, abd pain, fevers, chills or 
headaches.
 
Past Medical History:
Depressive disorder 
Prediabetes
GERD
 
Social History:
___
Family History:
No h/o sudden cardiac death
Mother: DM
 
Physical ___:
ADMISSION
Vitals: T 98.1 BP 108/66 HR 63 R 16 SpO2 100 ra
Gen: NAD
___: RRR, no MRG, no carotid bruits
LUNGS: CTAB
ABD: NTND
EXT: Warm, no edema
Neuro: 
Cranial Nerves
II-IV,VI EOMI
V no facial droop
VII sensation intact b/l
IX,X symmetric palate rise
XI shoulder shrug symmetric
XII no tongue deviation
___ strength UE and ___ b/l

DISCHARGE
Vitals: T:98.1 BP 115/57 HR 55 R 18 SpO2 99ra
Tele: No alarms
Gen: NAD
___: RRR, no MRG, no carotid bruits
LUNGS: CTAB
ABD: NTND
EXT: Warm, no edema
 
Pertinent Results:
ADMISSION
___ 08:29AM BLOOD WBC-3.5* RBC-4.42 Hgb-13.3 Hct-39.7 
MCV-90 MCH-30.1 MCHC-33.5 RDW-13.0 RDWSD-42.8 Plt ___
___ 08:29AM BLOOD Neuts-46.8 ___ Monos-12.7 Eos-1.7 
Baso-0.9 Im ___ AbsNeut-1.62 AbsLymp-1.30 AbsMono-0.44 
AbsEos-0.06 AbsBaso-0.03
___ 08:29AM BLOOD ___ PTT-26.2 ___
___ 08:29AM BLOOD Glucose-117* UreaN-13 Creat-1.1 Na-139 
K-4.4 Cl-103 HCO3-26 AnGap-14
___ 08:29AM BLOOD cTropnT-<0.01
___ 08:29AM BLOOD Calcium-9.5 Phos-3.7 Mg-2.0

PERTINENT
___ 08:35AM BLOOD Lactate-1.5
___ 08:29AM BLOOD cTropnT-<0.01

DISCHARGE
___ 07:00AM BLOOD Glucose-84 UreaN-11 Creat-1.0 Na-142 
K-3.9 Cl-108 HCO3-27 AnGap-11
___ 07:00AM BLOOD WBC-4.8 RBC-4.06 Hgb-12.2 Hct-36.9 MCV-91 
MCH-30.0 MCHC-33.1 RDW-13.2 RDWSD-43.3 Plt ___

STUDIES

Radiology Report CHEST (PA & LAT) Study Date of ___ 
IMPRESSION:  
No acute intrathoracic abnormality. 

 
Brief Hospital Course:
___ with no significant PMH p/w witnessed presyncope.

#PRESYNCOPE: Witnessed fall, no LOC, +nausea and diaphoresis c/w 
vasovagal in etiology. Denies palpitations, prodrome, chest pain 
or shortness of breath. No family hx of sudden cardiac death or 
arrhythmia. Did not hit her head per son. Given lack of prodrome 
or postictal confusion seizure is ruled out. Patient's blood 
pressure is wnl so hypovolemia is less likely. Hgb is wnl so GIB 
is also unlikely. Will need to rule out cardiac etiology. Given 
vague history of palpitations in past, paroxysmal afib is a 
possible etiology and would benefit from holter monitor as 
outpatient. Given age, an obstructive cardiac etiology is very 
unlikely to be present without previously declaring itself and 
therefore a TTE is not necessary. Given patient's lack of LOC 
and sx's c/w vasovagal, carotid Doppler is also not needed.  
Patient had a mild, irregular rhythm on telemetry which was not 
able to be caught on a 12 lead EKG. She was asymptomatic during 
this brief episode.
-Holter monitor as outpaitent

#Prediabetes: Last A1C was 6.4.
-monitor as outpatient

#GERD: patient states that she takes her omeprazole PRN for 
upset stomach. I explained that this medication works best when 
taken daily rather than PRN.
-cont. omeprazole

TRANSITIONAL ISSUES
[ ] HOLTER MONITOR AS OUTPATIENT
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
Pre-syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ came to the hospital because ___ had an episode of feeling 
nauseated and sweaty that led to ___ falling down. We believe 
this was due to ___ being slightly dehydrated and standing up 
too quickly. We watched your heart rate on a monitor for 24 
hours and it did not show any irregularities. However, sometimes 
irregular heart beats come and go and there is the possibility 
that we did not capture it on our monitor. Because irregular 
heart beats may cause your symptoms we recommend that ___ 
discuss wearing a heart monitor for a short period of time in 
order to evaluate your heart beat with your primary care 
physician.

Your medications and follow up appointments are detailed bellow.

We wish ___ the best!

Your ___ care team
 
Followup Instructions:
___